US07507734B2
b) 3-Ethyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole
12 mg Palladium, 10% on charcoal are added to a solution of 70 mg 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-vinyl-1H-indole methanol, and the reaction mixture is stirred under an hydrogen atmosphere for 4 hours. The catalyst is removed by filtration and the solvent by evaporation yielding the product which was used without further purification

reactant | 2-(3-Methoxy-6-pyridin-4-yl-pyridazin-4-yl)-3-vinyl-1H-indole methanol | 70 mg | COC=1N=NC(=CC1C1(NC2=CC=CC=C2C1C=C)CO)C1=CC=NC=C1 | C21H20N4O2
catalyst | Palladium | 12 mg | [Pd] | Pd
product | 3-Ethyl-2-(3-methoxy-6-pyridin-4-yl-pyridazin-4-yl)-1H-indole | C(C)C1=C(NC2=CC=CC=C12)C1=C(N=NC(=C1)C1=CC=NC=C1)OC | C20H18N4O
